US04007202
1-(1-carboxy-2-methylprop-2-enyl)-3-phenylacetamido-4-succinimidothio-azetidin-2-one was treated with a diazomethane solution in diethyl ether and after evaporation of the reaction mixture to dryness, the residue was purified by column chromatography on silica gel using a 5:3 (v/v) mixture of toluene and ethyl acetate, and finally only ethyl acetate, as an eluent. The structure of 1-(1-methoxycarbonyl-2-methylprop-2-enyl)-3-phenylacetamido-4-succinimidothio-azetidin-2-one so obtained was confirmed by mass-spectrometry and PMR and IR spectroscopy.

reactant | 1-(1-carboxy-2-methylprop-2-enyl)-3-phenylacetamido-4-succinimidothio-azetidin-2-one | C(=O)(O)C(C(=C)C)N1C(C(C1SN1C(CCC1=O)=O)NC(CC1=CC=CC=C1)=O)=O | C20H21N3O6S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(1-methoxycarbonyl-2-methylprop-2-enyl)-3-phenylacetamido-4-succinimidothio-azetidin-2-one | COC(=O)C(C(=C)C)N1C(C(C1SN1C(CCC1=O)=O)NC(CC1=CC=CC=C1)=O)=O | C21H23N3O6S
